*
.SUBCKT PMBTA63 1 2 3 
*
* For use with Microsim PSPICE 
* please modify the AREA statement
* in this model:  e.g.
* SPICE: 
* Q2 11 222 33 PMBTA63 AREA = 4.68 
* PSPICE:
* Q2 11 222 33 PMBTA63 4.68 
*
* housing parasitics
LB 2 22 1.25E-09 
LE 3 33 1.12E-09 
LC 1 11 2.3E-10 
*
CBCG 22 11 6.2E-14 
CBEG 22 33 4.5E-14 
CCEG 11 33 6.2E-14 
*
Q1 11 22 222 PMBTA63 AREA = 1 
Q2 11 222 33 PMBTA63 AREA = 4.68 
*
.MODEL PMBTA63 PNP 
+ IS = 1.593E-14 
+ NF = 0.9855 
+ ISE = 7E-15 
+ NE = 1.5 
+ BF = 280 
+ IKF = 0.09 
+ VAF = 31 
+ NR = 1 
+ ISC = 1E-32 
+ NC = 2 
+ BR = 5 
+ IKR = 0.1 
+ VAR = 4 
+ RB = 600 
+ IRB = 1E-06 
+ RBM = 10 
+ RE = 0.1 
+ RC = 1 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.32E-11 
+ VJE = 0.9 
+ MJE = 0.4141 
+ TF = 9.9E-10 
+ XTF = 15 
+ VTF = 5 
+ ITF = 0.4 
+ PTF = 0 
+ CJC = 7.95E-12 
+ VJC = 0.9 
+ MJC = 0.5622 
+ XCJC = 0.9 
+ TR = 1E-15 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.98 
*
.ENDS
*
